US07750040B2
A solution of (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-(2,2-dimethyl-[1,3]dioxan-5-ylmethoxy)-3,5-dimethyl-benzylamide (28 mg, 0.058 mmol) in acetic acid (1.6 mL) and water (0.4 mL) is stirred at rt for 1 h before it is separated by prep. HPLC to give (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-(3-hydroxy-2-hydroxymethyl-propoxy)-3,5-dimethyl-benzylamide (22 mg) as a colourless solid. LC-MS: tR=0.96 min, [M+1]+=444.30; 1H NMR (CDCl3): δ 6.95 (s, 2H), 5.77 (t br, J=5.8 Hz, 1H), 4.51-4.37 (m, 2H), 4.00 (d, J=5.3 Hz, 4H), 3.90 (d, J=5.3 Hz, 2H), 2.93 (dd, J=5.9, 17.6 Hz, 1H) 2.73 (d, J=17.6 Hz, 1H), 2.36 (s, 3H), 2.33-2.20 (m, 9H), 1.93-1.86 (m, 2H), 1.12 (s, 3H), 0.74 (s, 3H).

reactant | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-(2,2-dimethyl-[1,3]dioxan-5-ylmethoxy)-3,5-dimethyl-benzylamide | 0.058 mmol, 28 mg | CC1(OCC(CO1)COC1=C(C=C(CNC(=O)C2=C3C[C@@H]4[C@H](C3=C(S2)C)C4(C)C)C=C1C)C)C | C28H37NO4S
solvent | acetic acid | 1.6 mL | C(C)(=O)O | C2H4O2
solvent | water | 0.4 mL | O | H2O
product | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-(3-hydroxy-2-hydroxymethyl-propoxy)-3,5-dimethyl-benzylamide | 22 mg | OCC(COC1=C(C=C(CNC(=O)C2=C3C[C@@H]4[C@H](C3=C(S2)C)C4(C)C)C=C1C)C)CO | C25H33NO4S
